US04661477
A mixture of 11 g. (0.1 moles) of dimethyl phosphite, 20 ml. of water and 20 ml. of methanol is reacted with a mixture of 8.51 g. (0.1 moles) of cyclopentyl amine and 30 ml. of methanol as described in Example 1. 18.0 g. of cyclopentyl ammoniummethyl phosphonate are obtained.

reactant | dimethyl phosphite | 0.1 moles | P(OC)(OC)[O-]
reactant | water | O | H2O
reactant | cyclopentyl amine | 0.1 moles | C1(CCCC1)N | C5H11N
solvent | methanol | CO | CH4O
product | cyclopentyl ammoniummethyl phosphonate | Yield: 99% | CP([O-])([O-])=O.C1(CCCC1)[NH3+].C1(CCCC1)[NH3+] | InChI=1S/2C5H11N.CH5O3P/c2*6-5-3-1-2-4-5;1-5(2,3)4/h2*5H,1-4,6H2;1H3,(H2,2,3,4)
